US07906675B2
Step B: Preparation of 2,6-Dimethylbenzyl Chloride
To a stirred solution of 2,6-Dimethylbenzyl alcohol (9.94 g, 73 mmol) was added thionyl chloride (81.55 g, 685 mmol) at room temperature. The reaction mixture was stirred for 6 hours, concentrated under reduced pressure and used without further purification.

reactant | 2,6-Dimethylbenzyl alcohol | 73 mmol, 9.94 g | CC1=C(CO)C(=CC=C1)C | C9H12O
reactant | thionyl chloride | 685 mmol, 81.55 g | S(=O)(Cl)Cl | Cl2OS
product | 2,6-Dimethylbenzyl Chloride | CC1=C(CCl)C(=CC=C1)C | C9H11Cl
